US06187802B1
A solution of bromine (35 ml) in chloroform (150 ml) was added dropwise over 3 hours to a stirred mixture of 1-[1-(4-chlorophenyl)cyclobutyl]ethanone (150 g), chloroform (50 ml) and methanol (235 ml). When the addition was complete, the mixture was stirred at ambient temperature for a further 3 hours, then it was diluted with ice-cold water (750 ml). The product was extracted into dichloromethane (3×200 ml), and the combined extracts were washed with saturated aqueous sodium hydrogen carbonate solution (3×100 ml) and water (100 ml), dried (MgSO4), and the solvents removed in vacuo, to leave 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]ethanone as an oil which was used without further purification.

reactant | bromine | 35 ml | BrBr | Br2
reactant | 1-[1-(4-chlorophenyl)cyclobutyl]ethanone | 150 g | ClC1=CC=C(C=C1)C1(CCC1)C(C)=O | C12H13ClO
reactant | methanol | 235 ml | CO | CH4O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]ethanone | BrCC(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C12H12BrClO
